US07776910B2
Formaldehyde (37% in water, 0.19 mL, 2.505 mmol) and sodium cyanoborohydride (63 mg, 1.002 mmol) were added to a solution of 1-benzenesulfonyl-5-fluoro-3-(3-methyl-4-pyrrolidin-3-yl-benzenesulfonyl)-1H-indole trifluoroacetate (0.305 mg, 0.5011 mmol) in acetonitrile (3 mL). The reaction mixture was stirred at room temperature for 2 hours, then buffered to pH 12 by addition of 1 M aqueous NaOH. The mixture was extracted with DCM, and the combined organic extracts were washed with water and brine, dried over Na2SO4, filtered and evaporated under reduced pressure. The resulting crude material was purified via flash chromatography (DCM/MeOH(NH4OH) to give 0.209 g (81% yield) of 1-benzenesulfonyl-5-fluoro-3-[3-methyl-4-(1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-1H-indole as a white foam. MS (M+H)=513.

reactant | Formaldehyde | 2.505 mmol, 0.19 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1.002 mmol, 63 mg | C(#N)[BH3-].[Na+]
reactant | 1-benzenesulfonyl-5-fluoro-3-(3-methyl-4-pyrrolidin-3-yl-benzenesulfonyl)-1H-indole trifluoroacetate | 0.5011 mmol, 0.305 mg | FC(C(=O)O)(F)F.C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)F)S(=O)(=O)C1=CC(=C(C=C1)C1CNCC1)C
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-benzenesulfonyl-5-fluoro-3-[3-methyl-4-(1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-1H-indole | 0.209 g, 81% yield | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)F)S(=O)(=O)C1=CC(=C(C=C1)C1CN(CC1)C)C | C26H25FN2O4S2
